US05965589
(5-Methyl-2-phenyl-4-oxazolylmethyl)triphenyl-phosphonium chloride (25.4 g) was added to a solution of sodium ethoxide in ethanol [prepared from sodium (1.4 g) and ethanol (300 ml)] under cooling. The mixture was stirred at room temperature for 5 minutes, and then 4-bromobenzaldehyde (10.0 g) was added. After stirring at room temperature for 2 hours, the reaction mixture was poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to column chromatography on silica gel. The fractions eluted with ether-hexane (1:20, v/v) gave (E)-4-[2-(4-bromophenyl)vinyl]-5-methyl-2-phenyloxazole (13.1 g, 71%). This product was recrystallized from ethyl acetate-hexane. Colorless prisms, mp: 138-139° C.

reactant | (5-Methyl-2-phenyl-4-oxazolylmethyl)triphenyl-phosphonium chloride | 25.4 g | [Cl-].CC1=C(N=C(O1)C1=CC=CC=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | 4-bromobenzaldehyde | 10.0 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | water | O | H2O
solvent | ethanol | 300 ml, 1.4 g | C(C)O | C2H6O
product | (E)-4-[2-(4-bromophenyl)vinyl]-5-methyl-2-phenyloxazole | 13.1 g, 71% | BrC1=CC=C(C=C1)/C=C/C=1N=C(OC1C)C1=CC=CC=C1 | C18H14BrNO
